US07078527B2
When, for example, 4-bromo-1,1,2-trifluoro-1-butene and ammonium thiocyanate are used, 3,4,4-trifluoro-3-butenyl thiocyanate is obtained which is then reacted with H2S to give 3,4,4-trifluoro-3-butenyl dithiocarbamate. Further reaction of 3,4,4-trifluoro-3-butenyl dithiocarbamate with chloroacetaldehyde then provides 2-[(3,4,4-trifluoro-3-butenyl)sulphanyl]-1,3-thiazole. This reaction sequence may be schematically represented as follows:

reactant | 4-bromo-1,1,2-trifluoro-1-butene | BrCCC(=C(F)F)F | C4H4BrF3
reactant | ammonium thiocyanate | [S-]C#N.[NH4+]
product | 3,4,4-trifluoro-3-butenyl thiocyanate | FC(CCSC#N)=C(F)F | C5H4F3NS
